US07119207B2
A suspension of 3.1 g (0.0087 m) of methyl-triphenylphosphonium bromide in 100 ml of tetrahydrofuran was cooled to −20° C. To this suspension was added dropwise 3.5 ml (0.0087 m) of a 2.5 M solution of n-butyl lithium in tetrahydrofuran. The mixture was slowly. warmed to +5° C. at which time a yellow solution formed. The mixture was cooled to −20° C. and 2.2 g (0.0079 m) of (6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-oxo-acetic acid methyl ester was added. The reaction mixture was warmed to room temperature and stirred for 18 hours. The reaction mixture was filtered, and the filtrate evaporated to yield a brown oily residue. This material was chromatographed on 75 grams of silica using chloroform as the elutant. Appropriate fractions were combined and evaporated to yield 1.8 g (83%) of 2-(6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl) acrylic acid methyl ester as an amorphous solid. 1H NMR (CDCl3) δ 2.58 (m, 2H), 2.82 (m, 2H), 3.15 (s, 3H), 3.70 (s, 6H), 5.70 (s, 1H), 6.25 (s, 1H), 6.65 (s, 1H), 6.80 (s, 1H). Mass spectrum: m/e=276 (p+1). TLC (5/1 methylene chloride/ethyl acetate) Rf=0.90.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | (6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-oxo-acetic acid methyl ester | 2.2 g | COC(C(=O)C1=C(C=C2CCC(N(C2=C1)C)=O)OC)=O | C14H15NO5
catalyst | methyl-triphenylphosphonium bromide | 3.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl) acrylic acid methyl ester | 1.8 g, 83% | COC(C(=C)C1=C(C=C2CCC(N(C2=C1)C)=O)OC)=O | C15H17NO4
